US04937252
Preparation of 3-(2-chlorophenylmethyl)-2-thiazolidinone
The procedure of Example 2 is followed 5.05 g (0.025 mol) of N-(2-chlorophenylmethyl)cysteamine are reacted with 5.35 g (0.025 mol) of diphenyl carbonate and then worked up. The product is purified by column chromatography (by using Kieselgel 60 of 230-400 mesh as sorbent and chloroform as eluent) to obtain 2.5 g (43.9%) of the title compound, nD30 =1.600.

reactant | N-(2-chlorophenylmethyl)cysteamine | 0.025 mol, 5.05 g | ClC1=C(C=CC=C1)CNCCS | C9H12ClNS
reactant | diphenyl carbonate | 0.025 mol, 5.35 g | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
product | 3-(2-chlorophenylmethyl)-2-thiazolidinone | 2.5 g, 43.9% | ClC1=C(C=CC=C1)CN1C(SCC1)=O | C10H10ClNOS
